US03959322
Reflux 2-(6-m-acetoxyphenyl-3-oxohexyl)-2-methylcyclopentane-1,3-dione (0.8 g, the product of Michael condensation of 2-methylcyclopentanedione and a mixture of 6-m-acetoxyphenyl-1-diethylaminohexan-3-one and 6-m-acetoxyphenylhex-1-en-3-one, and containing some of the corresponding free phenolic compound) in benzene (25 cc) with toluene-p-sulfonic acid (0.3 g) for 50 minutes. On cooling add ether (50 cc) and wash the mixture in turn with water, saturated aqueous potassium bicarbonate, and brine; dry over anhydrous magnesium sulfate. The residue after removal of solvent is a purple gum (0.6 g), part of which can be induced to crystallize. Dissolve a portion (0.45 g) of this gum in benzene and adsorb on an activated Fuller's earth (40 g); elute with benzene to obtain 13β-methyl-3-hydroxygona-1,3,5(10),8,14-pentaen-17-one, which one recrystallizes from diisopropyl ether, m.p. 225°-226°; ultraviolet absorption peak at 312.5 mμ (ε23,000); infrared absorption peaks at 2.99 μ, 5.81 μ, and 8.00μ.

reactant | 2-(6-m-acetoxyphenyl-3-oxohexyl)-2-methylcyclopentane-1,3-dione | C(C)(=O)OC=1C=C(C=CC1)CCCC(CCC1(C(CCC1=O)=O)C)=O | C20H24O5
reactant | 6-m-acetoxyphenyl-1-diethylaminohexan-3-one | C(C)(=O)OC=1C=C(C=CC1)CCCC(CCN(CC)CC)=O | C18H27NO3
reactant | 6-m-acetoxyphenylhex-1-en-3-one | C(C)(=O)OC=1C=C(C=CC1)CCCC(C=C)=O | C14H16O3
reactant | toluene-p-sulfonic acid | 0.3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 25 cc | C1=CC=CC=C1 | C6H6
solvent | ether | 50 cc | CCOCC | C4H10O
product | 13β-methyl-3-hydroxygona-1,3,5(10),8,14-pentaen-17-one | C[C@]12C(CC=C2C2=C(CC1)C=1C=CC(=CC1CC2)O)=O | C18H18O2
